US06653475B2
2-Amino4-chlorobenzamide
To a solution of 4-chloroanthranilic acid (70 g, 0.41 mol) in hot (60° C.) dimethylformamide (700 mL), dicyclohexylcarbodiimide (93 g, 0.451 mol, 1.1 equiv), hydroxybenzotriazole hydrate (60.9 g, 0.451 mol, 1.1 eq) and 30% aqueous ammonium hydroxide solution (350 mL) were added. The resulting solution was stirred at room temperature for 18 h. The formed urea was filtered off and the filtrate concentrated. The resulting mixture was partitioned between ethyl acetate and 5% K2CO3 solution. The organic phase was separated, dried over anhydrous Na2SO4, filtered and the filtrate was concentrated to dryness to give the desired product as a slightly yellow solid (58.1 g, 83%).

reactant | 4-chloroanthranilic acid | 0.41 mol, 70 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | dicyclohexylcarbodiimide | 0.451 mol, 93 g, 1.1 equiv | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydroxybenzotriazole hydrate | 0.451 mol, 60.9 g, 1.1 eq | O.OC1=CC=CC=2NN=NC21
reactant | ammonium hydroxide | 350 mL | [OH-].[NH4+]
solvent | dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
product | 2-Amino4-chlorobenzamide | NC1=C(C(=O)N)C=CC(=C1)Cl | C7H7ClN2O
